US09079914B2
(2) Synthesis of 5-fluoromethoxypyridine-2-carboxylic acid
N NaOH (81 μL) was added to a solution containing methyl 5-fluoromethoxypyridine-2-carboxylate (50 mg) in THF/water (2 mL, 3/1), and the mixture was stirred at RT for 10 min. Water (1 mL) was added to the reaction solution, followed by further stirring for 20 min. The reaction solution was made acidic with 5 N hydrochloric acid. EtOAc and a saturated NaCl solution were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous MgSO4, and the insoluble matter was separated by filtration. The filtrate was concentrated to obtain the title compound (22.6 mg). 1H-NMR (CDCl3) δ (ppm): 5.81 (d, J=53.2 Hz, 2H), 7.61 (ddd, J=0.8, 2.8, 8.8 Hz, 1H), 8.25 (d, J=0.8, 8.8 Hz, 1H), 8.42 (d, J=2.4 Hz, 1H).

reactant | NaOH | 81 μL | [OH-].[Na+]
reactant | methyl 5-fluoromethoxypyridine-2-carboxylate | 50 mg | FCOC=1C=CC(=NC1)C(=O)OC | C8H8FNO3
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | THF water | 2 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | 1 mL | O | H2O
product | 5-fluoromethoxypyridine-2-carboxylic acid | 22.6 mg | FCOC=1C=CC(=NC1)C(=O)O | C7H6FNO3
